US06780471B2
The procedure of Example 1 was repeated employing 4,4′-bis(trimethoxysilyl)stilbene) in place of bis(trimethoxysilyl)biphenyl (2 g, 4.75 mmol) and using a 1% acetic acid solution (9 ml) to give a ratio of 2.94 equivalents of stilbene to 1 equivalent of acetic acid. The reaction mixture was stirred for a period of 10 days and a yellow coloured powder was recovered at 70% yield. (1.12 g, 3.32 mmol)

reactant | 4,4′-bis(trimethoxysilyl)stilbene | CO[Si](C1=CC=C(C=C1)C=CC1=CC=C(C=C1)[Si](OC)(OC)OC)(OC)OC | C20H28O6Si2
reactant | bis(trimethoxysilyl)biphenyl | 4.75 mmol, 2 g | CO[Si](OC)(OC)C1=CC=C(C=C1)C1=CC=C(C=C1)[Si](OC)(OC)OC | C18H26O6Si2
solvent | acetic acid | 9 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1 equivalent | C(C)(=O)O | C2H4O2
product | stilbene | 2.94 equivalents, 70% yield | C1(=CC=CC=C1)C=CC1=CC=CC=C1 | C14H12
